US08466181B2
a) 6-(4-(1-(4-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid
A solution of lithium hydroxide monohydrate (62 mg, 1.46 mmol) in water (2.8 mL) was added dropwise to a suspension of methyl 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate (277 mg, 0.732 mmol) in THF (4.8 mL) and methanol (1 mL). The reaction mixture was then stirred at room temperature for 1 h and was then evaporated and the residue dissolved in water, acidified with HCl (1 N), and the resulting precipitate filtered off to afford the title product (245 mg, 92%) as a light brown solid. MS: m/e=363.2 [M−H]−.

reactant | lithium hydroxide monohydrate | 1.46 mmol, 62 mg | O.[OH-].[Li+]
reactant | methyl 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate | 0.732 mmol, 277 mg | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)OC)C=C1)C | C19H15FN6O2
solvent | water | 2.8 mL | O | H2O
solvent | THF | 4.8 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | 6-(4-(1-(4-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 245 mg, 92% | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
